US03974158
To a solution of 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine (5 g.) in dichloromethane (50 ml.), phenylchloroformate (2 ml.) is added and the mixture is stirred at ambient temperature (ca 20°C) for 24 hours. The solvent is evaporated and the residual oil is recrystallised from ethanol to give 4-phenoxycarbonyl-2-toluene-p-sulphonyloxymethylmorpholine, m.p. 101°-103°C.

reactant | 4-benzyl-2-toluene-p-sulphonyloxymethylmorpholine | 5 g | C(C1=CC=CC=C1)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H23NO4S
reactant | phenylchloroformate | 2 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-phenoxycarbonyl-2-toluene-p-sulphonyloxymethylmorpholine | O(C1=CC=CC=C1)C(=O)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H21NO6S
